US04244967
1-(4-Ethoxycarbonylamino-3-chloro-5-fluoro-phenyl)-2-tert.-butylamino-ethanol hydrochloride
8.7 gm of 4'-ethoxycarbonylamino-3'-chloro-5'-fluoro-acetophenone were added in portions to a solution of 3.7 gm of selenium dioxide in 30 ml of dioxane and 1 ml of water at 60° C. while stirring. The mixture obtained was refluxed for 4 hours and, after cooling, 4.1 ml of tert. butylamine were added dropwise to the solution of 4'-ethoxycarbonylamino-3'-chloro-5'-fluoro-phenylglyoxal thus obtained while cooling with ice. The resulting mixture was diluted with 350 ml of ethanol and filtered. 5 gm of sodium borohydride were added in portions to the filtrate containing crude 4'-ethoxy-carbonylamino-3'-chloro-5'-fluoro-phenyl-glyoxylidene-tert.-butylamine, while stirring and cooling with ice. After allowing the mixture thus obtained to stand overnight at room temperature, the excess sodium borohydride was destroyed with acetone. The resulting mixture was admixed with water and extracted with chloroform. The chloroform extract was washed with water, dried over sodium sulfate and, after the addition of activated charcoal and rapidly heated to the boiling point filtered, and evaporated in vacuo. The solid residue consisting of 1-(4-ethoxy-carbonylamino-3-chloro-5-fluoro-phenyl)-2-tert. butylamino-ethanol was admixed with isopropanol, and the mixture obtained was acidified with ethereal hydrochloric acid to pH 4. After addition of ether, the precipitated crystals were suction-filtered off and washed with ether.

reactant | 4'-ethoxycarbonylamino-3'-chloro-5'-fluoro-acetophenone | 8.7 gm | C(C)OC(=O)NC1=C(C=C(C=C1F)C(C)=O)Cl | C11H11ClFNO3
reactant | selenium dioxide | 3.7 gm | [Se](=O)=O | O2Se
reactant | tert. butylamine | 4.1 ml | C(C)(C)(C)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1-(4-Ethoxycarbonylamino-3-chloro-5-fluoro-phenyl)-2-tert.-butylamino-ethanol hydrochloride | Cl.C(C)OC(=O)NC1=C(C=C(C=C1F)C(CNC(C)(C)C)O)Cl | InChI=1S/C15H22ClFN2O3.ClH/c1-5-22-14(21)19-13-10(16)6-9(7-11(13)17)12(20)8-18-15(2,3)4;/h6-7,12,18,20H,5,8H2,1-4H3,(H,19,21);1H
